US06835686B2
A mixture of 300 parts of 8,9-limonene oxide, 6 parts of calcium hydroxide and 6 parts of carvacrol was refluxed at 215-230° C. for 2 hours in a three-necked flask equipped agitator, Dean-Stark trap, and temperature probe. After cooling and filtration 290 parts of the mixture containing 30% of unreacted epoxide and 43% 1,8-p-menthadien-10-ol (61% selectivity) was obtained.

reactant | calcium hydroxide | [OH-].[Ca+2].[OH-]
reactant | carvacrol | C1=C(O)C(C)=CC=C1C(C)C | C10H14O
product | 1,8-p-menthadien-10-ol | C1(=CCC(CC1)C(=C)CO)C | C10H16O
